US06797710B2
81c. 3Oxo-3-(4-oxopiperidin-1-yl)propionic acid methyl ester
To a solution of 4-piperidone monohydrate, hydrochloride (30.7 g; 0.2 mol), sodium carbonate (42 g; 0.4 mol) in water (160 mL) was added dichloromethane (500 mL). The mixture was stirred at room temperature and a solution of methyl malonylchloride (26 ml; 1.2 eq) in dichloromethane (100 mL) was added dropwise at room temperature, keeping the temperature of the reaction mixture below 30° C. The pH was maintained at 8 at the end of the addition. The mixture was stirred 4 hours at room temperature. The residue was extracted twice with dichloromethane, dried over magnesium sulfate and evaporate to yield the title compound (37.4 g).

reactant | 4-piperidone monohydrate | O.N1CCC(CC1)=O
reactant | hydrochloride | 0.2 mol, 30.7 g | Cl | ClH
reactant | sodium carbonate | 0.4 mol, 42 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl malonylchloride | 26 ml, 1.2 eq | CC(C(=O)Cl)C(=O)Cl | C4H4Cl2O2
solvent | water | 160 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 3Oxo-3-(4-oxopiperidin-1-yl)propionic acid methyl ester | 37.4 g | COC(CC(N1CCC(CC1)=O)=O)=O | C9H13NO4
